US06531485B2
trans-7-{2-[2-(3-Cyano-phenyl)-vinyl]-5-oxo-cyclopentyl}-heptanoic acid
Wang resin bound trans-7-[2-oxo-5-(2-tributylstannanyl-vinyl)-cyclopentyl]-heptanoic acid (the compound of Preparation 1, Step F, 70 mg, 0.05 mmol, 1 eq), tris(dibenzylideneacetone)dipalladium(0) (18.2 mg, 0.02 mmol, 0.4 eq), diisopylethylamine (12.8 mg, 0.099 mmol, 2 eq), potassium carbonate (10 mg) and 3-bromo-benzonitrile (36.2 mg, 0.199 mmol, 4 eq) were placed in a well of a deep-well plate, and tetrahydrofuran was added until resin was just wet. The slurry was shaken at room temperature overnight. The resin was filtered and washed with N,N-dimethylformamide and methanol. It was repeatedly swollen with dichloromethane and shrunk with methanol. The resin was finally washed with diethyl ether to remove methanol. Cleavage of the product with trifluoroacetic acid as described in Step B of Example 3 with 90% trifluoroacetic acid in water gave the title compound of Example 66.

reactant | trans-7-[2-oxo-5-(2-tributylstannanyl-vinyl)-cyclopentyl]-heptanoic acid | O=C1[C@H]([C@@H](CC1)C=C[Sn](CCCC)(CCCC)CCCC)CCCCCCC(=O)O
reactant | potassium carbonate | 10 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-benzonitrile | 0.199 mmol, 36.2 mg, 4 eq | BrC=1C=C(C#N)C=CC1 | C7H4BrN
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmol, 18.2 mg, 0.4 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans-7-{2-[2-(3-Cyano-phenyl)-vinyl]-5-oxo-cyclopentyl}-heptanoic acid | C(#N)C=1C=C(C=CC1)C=C[C@H]1[C@@H](C(CC1)=O)CCCCCCC(=O)O | C21H25NO3
